US03993768
1.6 G. of 2-amino-4-(2-benzyloxyethoxy)-1-nitrobenzene is treated in 100 ml. of methanol and 50 ml. of water with 10 g. of sodium hydrosulfite (Na2S2O4) on the steam bath for 15 minutes. The reaction mixture is concentrated under vacuum and extracted with chloroform. Evaporationn of the extract affords 1,2-diamino-4-(2-benzyloxyethoxy)benzene.

reactant | 2-amino-4-(2-benzyloxyethoxy)-1-nitrobenzene | NC1=C(C=CC(=C1)OCCOCC1=CC=CC=C1)[N+](=O)[O-] | C15H16N2O4
reactant | methanol | CO | CH4O
reactant | sodium hydrosulfite | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | water | O | H2O
product | 1,2-diamino-4-(2-benzyloxyethoxy)benzene | NC1=C(C=C(C=C1)OCCOCC1=CC=CC=C1)N | C15H18N2O2
